US04812164
using 2-ethoxy-1-(4-chloro-2-fluoro-5 -hydroxyphenyl) -4-trifluoromethyl-6(1H)-pyrimidinone and dimethyl sulphate with sodium carbonate in acetone there is obtained 2-ethoxy-1-(4-chloro-2-fluoro-5 -methoxyphenyl) -4-trifluoromethyl-6(1H)-pyrimidinone. m.p. 117°-119° C.;

reactant | 2-ethoxy-1-(4-chloro-2-fluoro-5 -hydroxyphenyl) -4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F | C13H9ClF4N2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-ethoxy-1-(4-chloro-2-fluoro-5 -methoxyphenyl) -4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC)Cl)F | C14H11ClF4N2O3
